US04360470
To a cooled, stirred solution of 4.05 g (10.1 mmol) of cholesta-5,24-diene-1α,3β-diol in 53 ml of tetrahydrofuran in an ice bath was added 33 ml of water followed by 4.0 g (12.5 mmol) of mercuric acetate. The bath was removed. After 2 hr., the reaction was still incomplete (tlc) so 0.4 g (1.3 mmol) of mercuric acetate was added. After 4 hr., 800 mg (21.1 mol) of sodium borohydride was added, followed after 30 min. by 190 ml of saturated brine and extraction of the resulting suspension with 5×50 ml of methylene chloride. The organic phases were backwashed with 20 ml of brine, dried (Na2SO4), filtered and evaporated. The residue was chromatographed on 400 g of silica gel. Elution with 5% methanol--chloroform and combination of fractions according to tlc (10% methanol--chloroform) afforded 3.60 g (85%) of 1α,25-dihydroxycholesterol, mp 165°- 167° C.

reactant | cholesta-5,24-diene-1α,3β-diol | 10.1 mmol, 4.05 g | CC(C)=CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O | C27H44O2
reactant | water | 33 ml | O | H2O
reactant | sodium borohydride | 21.1 mol, 800 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 53 ml | O1CCCC1 | C4H8O
product | 1α,25-dihydroxycholesterol | 3.60 g, 85% | O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)(C)O)C)[C@]4(CC[C@@H]3[C@@]12C)C)O | C27H46O3
